US07109354B2
a) 3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine
To an oven-dried round bottom flask fitted with a stir bar was added 4-bromo-3-methylaniline (5.7 gm, 31 mmol), 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (13.3 mL, 92 mmol, Aldrich Chemical Company), and PdCl2(PPh3)2 (2.2 gm, 3.1 mmol, Strem Chemicals Inc, Newburyport, Mass.). The flask was sealed with a rubber septum, purged with Argon, and then charged with dry dioxane (100 mL) and triethylamine (26 mL). The reaction mixture was stirred vigorously at 95° C. for 16 h. After cooling to rt, the dioxane was removed in vacuo and the residue was partitioned between EtOAc (200 mL) and water (100 mL). The organic layer was washed with saturated NaHCO3 (2×75 mL), brine (50 mL), and was dried over MgSO4. Removal of the solvents in vacuo followed by flash chromatography of the residue yielded the product (3.3 gm, 46%) as a tan oil. 1H-NMR (CDCl3; 400 MHz): δ 7.61–7.64 (m, 1H), 6.48–6.58 (m, 2H), 3.60–3.90, (br s, 2H), 2.49 (s, 3H), 1.34 (s, 12H). ESI-MS (m/z): Calcd. for C13H20BNO2: 234.1 (M+H); found: 234.2

reactant | 4-bromo-3-methylaniline | 31 mmol, 5.7 gm | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 92 mmol, 13.3 mL | CC1(OBOC1(C)C)C | C6H13BO2
catalyst | PdCl2(PPh3)2 | 3.1 mmol, 2.2 gm | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 3.3 gm, 46% | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N | C13H20BNO2
